Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CC(C)(C)OC(=O)[N:1]1[CH2:2][C@@H:3]([c:4]2[cH:5][c:6]([F:7])[cH:8][c:9]([F:10])[cH:11]2)[N:12]([CH2:13][C:14](=[O:15])[NH:16][c:17]2[cH:18][c:19]3[c:20]([cH:21][c:22]2[Cl:23])[CH2:24][C:25]2([CH2:26]3)[C:27](=[O:28])[NH:29][c:30]3[n:31][cH:32][cH:33][cH:34][c:35]32)[C:36](=[O:37])[C:38]12[CH2:44][O:43][CH2:42][CH2:41][O:40][CH2:39]2>>[NH:1]1[CH2:2][C@@H:3]([c:4]2[cH:5][c:6]([F:7])[cH:8][c:9]([F:10])[cH:11]2)[N:12]([CH2:13][C:14](=[O:15])[NH:16][c:17]2[cH:18][c:19]3[c:20]([cH:21][c:22]2[Cl:23])[CH2:24][C:25]2([CH2:26]3)[C:27](=[O:28])[NH:29][c:30]3[n:31][cH:32][cH:33][cH:34][c:35]32)[C:36](=[O:37])[C:38]12[CH2:39][O:40][CH2:41][CH2:42][O:43][CH2:44]2,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][C@@H:3]([c:4]2[cH:5][c:6]([F:7])[cH:8][c:9]([F:10])[cH:11]2)[N:12]([CH2:13][C:14](=[O:15])[NH:16][c:17]2[cH:18][c:19]3[c:20]([cH:21][c:22]2[Cl:23])[CH2:24][C:25]2([CH2:26]3)[C:27](=[O:28])[NH:29][c:30]3[n:31][cH:32][cH:33][cH:34][c:35]32)[C:36](=[O:37])[C:38]12[CH2:39][O:40][CH2:41][CH2:42][O:43][CH2:44]2.[H+:301]>>[NH:1]1[CH2:2][C@@H:3]([c:4]2[cH:5][c:6]([F:7])[cH:8][c:9]([F:10])[cH:11]2)[N:12]([CH2:13][C:14](=[O:15])[NH:16][c:17]2[cH:18][c:19]3[c:20]([cH:21][c:22]2[Cl:23])[CH2:24][C:25]2([CH2:26]3)[C:27](=[O:28])[NH:29][c:30]3[n:31][cH:32][cH:33][cH:34][c:35]32)[C:36](=[O:37])[C:38]12[CH2:39][O:40][CH2:41][CH2:42][O:43][CH2:44]2,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:2][CH2:3][CH2:4][O:5][c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1.[OH:12][C:13]([c:14]1[cH:15][cH:16][c:17]([F:18])[cH:19][cH:20]1)([c:21]1[cH:22][cH:23][c:24]([F:25])[cH:26][cH:27]1)[C:28]12[CH2:29][CH2:30][N:31]([CH2:32][CH2:33]1)[CH2:34][CH2:35]2>>[CH2:2]([CH2:3][CH2:4][O:5][c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1)[N+:31]12[CH2:30][CH2:29][C:28]([C:13]([OH:12])([c:14]3[cH:15][cH:16][c:17]([F:18])[cH:19][cH:20]3)[c:21]3[cH:22][cH:23][c:24]([F:25])[cH:26][cH:27]3)([CH2:33][CH2:32]1)[CH2:35][CH2:34]2,[OH:12][C:13]([c:14]1[cH:15][cH:16][c:17]([F:18])[cH:19][cH:20]1)([c:21]1[cH:22][cH:23][c:24]([F:25])[cH:26][cH:27]1)[C:28]12[CH2:29][CH2:30][N:31]([CH2:32][CH2:33]1)[CH2:34][CH2:35]2.[Br:101][CH2:2][CH2:3][CH2:4][O:5][c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1>>[CH2:2]([CH2:3][CH2:4][O:5][c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1)[N+:31]12[CH2:30][CH2:29][C:28]([C:13]([OH:12])([c:14]3[cH:15][cH:16][c:17]([F:18])[cH:19][cH:20]3)[c:21]3[cH:22][cH:23][c:24]([F:25])[cH:26][cH:27]3)([CH2:33][CH2:32]1)[CH2:35][CH2:34]2,SN2,"[(31, 2), ([2, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[NH:1][C:2]1([c:3]2[cH:4][cH:5][c:6](-[c:7]3[c:8](-[c:9]4[cH:10][cH:11][cH:12][cH:13][cH:14]4)[cH:15][c:16]4[c:17]([n:18]3)[N:19]([CH3:20])[CH2:21][C:22](=[O:23])[NH:24]4)[cH:25][cH:26]2)[CH2:27][CH2:28][CH2:29]1>>[NH2:1][C:2]1([c:3]2[cH:4][cH:5][c:6](-[c:7]3[c:8](-[c:9]4[cH:10][cH:11][cH:12][cH:13][cH:14]4)[cH:15][c:16]4[c:17]([n:18]3)[N:19]([CH3:20])[CH2:21][C:22](=[O:23])[NH:24]4)[cH:25][cH:26]2)[CH2:27][CH2:28][CH2:29]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][C:2]1([c:3]2[cH:4][cH:5][c:6](-[c:7]3[c:8](-[c:9]4[cH:10][cH:11][cH:12][cH:13][cH:14]4)[cH:15][c:16]4[c:17]([n:18]3)[N:19]([CH3:20])[CH2:21][C:22](=[O:23])[NH:24]4)[cH:25][cH:26]2)[CH2:27][CH2:28][CH2:29]1.[H+:301]>>[NH2:1][C:2]1([c:3]2[cH:4][cH:5][c:6](-[c:7]3[c:8](-[c:9]4[cH:10][cH:11][cH:12][cH:13][cH:14]4)[cH:15][c:16]4[c:17]([n:18]3)[N:19]([CH3:20])[CH2:21][C:22](=[O:23])[NH:24]4)[cH:25][cH:26]2)[CH2:27][CH2:28][CH2:29]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][cH:7][c:8]1[N+:9](=[O:10])[O-:11].[CH3:12][C:13]([CH3:14])([CH3:15])[OH:16]>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][cH:7][c:8]1[N+:9](=[O:10])[O-:11])[O:16][C:13]([CH3:12])([CH3:14])[CH3:15],[Cl:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][cH:7][c:8]1[N+:9](=[O:10])[OH:11].[CH3:12][C:13]([CH3:14])([CH3:15])[OH:16].[H-:301].[Na+]>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][cH:7][c:8]1[N+:9](=[O:10])[OH:11])[O:16][C:13]([CH3:12])([CH3:14])[CH3:15],alcohol_attack_to_carbonyl_or_sulfonyl,"[(301, 16.1), ([16.1, 16], 16), (16, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
